US06667342B1
2-Chloro-4-[(4-sulphamoyl-anilino)sulphonyl]aniline
A solution of 4-acetamido-3-chlorobenzenesulphonyl chloride (2.68 g, 10.0 mmol), sulphanilamide (2.06 g, 12.0 mmol), dimethylaminopyridine (1.22 g, 10.0 mmol) and pyridine (2.40 ml, 10.0 mmol) in EtOAc (150 ml) was stirred at ambient temperature for 3 days. The solution was washed with 1.0M aqueous hydrochloric acid and brine, dried and evaporated to dryness. The residue was dissolved in ethanol (100 ml) and 2M aqueous sodium hydroxide (22.1 ml) was added. The mixture was heated at reflux for 4 hours and then cooled to ambient temperature and evaporated to dryness. Water (25 ml) was added to the residue and the solution was neutralised to pH 7.0 by the addition of 1M aqueous hydrochloric acid. The aqueous solution was extracted with EtOAc, the EtOAc extracts washed with brine, dried and evaporated to give, as a solid, the title compound (2.34 g, 6.5 mmol). M.p. 197°-198°; NMR: 6.3 (s, 2H), 6.8 (d, 1H), 7.2 (s, 2H), 7.25 (d, 2H), 7.4 (dd, 2H), 7.55 (d, 1H), 7.65 (d, 2H); MS: 360.

reactant | 4-acetamido-3-chlorobenzenesulphonyl chloride | 10.0 mmol, 2.68 g | C(C)(=O)NC1=C(C=C(C=C1)S(=O)(=O)Cl)Cl | C8H7Cl2NO3S
reactant | sulphanilamide | 12.0 mmol, 2.06 g | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | dimethylaminopyridine | 10.0 mmol, 1.22 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | pyridine | 10.0 mmol, 2.40 ml | N1=CC=CC=C1 | C5H5N
solvent | EtOAc | 150 ml | CCOC(=O)C | C4H8O2
product | 2-Chloro-4-[(4-sulphamoyl-anilino)sulphonyl]aniline | 6.5 mmol, 2.34 g | ClC1=C(N)C=CC(=C1)S(=O)(=O)NC1=CC=C(C=C1)S(N)(=O)=O | C12H12ClN3O4S2
